US07795262B2
Step 5. Preparation of 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-6-(6-methylpyridazin-3-yl)-1,2,3,4-tetrahydroisoquinoline
To a stirred solution of [6-(6-methyl-pyridazin-3-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-acetic acid dihydrochloride (313 mg, 0.88 mmol) and 1-cyclobutyl-piperazine bistrifluoroacetate (356 mg, 0.97 mmol, 1.1 eq.) in DCM (10.0 ml) are added BOP (467 mg, 1.06 mmol, 1.2 eq.) and TEA (267 mg, 2.64 mmol, 3.0 eq.). The mixture is stirred at rt for 2 hr. Water (10.0 ml) is added to quench the reaction, and the organic layer is collected, dried over sodium sulfate, and concentrated. The residue is purified by PTLC (EtOAc/4% TEA) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 7.85 (1H, s), 7.78 (1H, dd), 7.72 (1H, d), 7.36 (1H, d), 7.15 (1H, d), 3.75 (2H, s), 3.65 (4H, m), 3.39 (2H, s), 2.99 (2H, t), 2.82 (2H, t), 2.74 (3H, s), 2.68 (1H, m), 2.28 (4H, m), 1.64-2.08 (6H, m); MS (+VE) m/z 406.2 (M++1).

reactant | [6-(6-methyl-pyridazin-3-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-acetic acid dihydrochloride | 0.88 mmol, 313 mg | Cl.Cl.CC1=CC=C(N=N1)C=1C=C2CCN(CC2=CC1)CC(=O)O
reactant | BOP | 1.06 mmol, 467 mg, 1.2 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Water | 10.0 ml | O | H2O
solvent | DCM | 10.0 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-6-(6-methylpyridazin-3-yl)-1,2,3,4-tetrahydroisoquinoline | C1(CCC1)N1CCN(CC1)C(CN1CC2=CC=C(C=C2CC1)C=1N=NC(=CC1)C)=O | C24H31N5O
